US05750050
Step 6.2 Preparation of Methyl 3-decyloxybenzoate.
A solution of 1-bromodecane (11.05 g, 0.050 mol) in butanone (50 ml) was added dropwise to a stirred, refluxing mixture of methyl-3-hydroxybenzoate (5.0 g, 0.033 mol) and anhydrous potassium carbonate (K2CO3) (30.0 g, 0.20 mol) in butanone (200 ml). The stirred mixture was heated under reflux for 24 h. The K2CO3 was filtered off and the solvent removed. The residue was purified by gravity column chromatography (silica gel/dichloromethane) to yield a colourless oil.

reactant | 1-bromodecane | 0.050 mol, 11.05 g | BrCCCCCCCCCC | C10H21Br
reactant | methyl-3-hydroxybenzoate | 0.033 mol, 5.0 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | potassium carbonate | 0.20 mol, 30.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 50 ml | CC(CC)=O | C4H8O
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | Methyl 3-decyloxybenzoate | C(CCCCCCCCC)OC=1C=C(C(=O)OC)C=CC1 | C18H28O3
